US06897225B1
6-[4-[2-(2-Methoxycarbonylethyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione
NiCl2.6H2O (0.17 g) was added to a solution of 6-[4-[2-(2-methoxycarbonylvinyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione (0.196 g). NaBH4 (0.14 g) was added portionwise to the mixture and the mixture was stirred for 1 hour. The mixture was diluted with EtOAc and water and filtered through Celite. The organic layer was separated and washed with water, brine, dried (MgSO4), filtered, and concentrated. Purification by chromatography (Silica gel: EtOAc/hexane: 1/4, Chromatotron) afforded the titled compound (0.125 g). MS (m/z) 573 (M++Na).

reactant | 6-[4-[2-(2-methoxycarbonylvinyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | 0.196 g | COC(=O)C=CC1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C30H26Cl2N2O4
reactant | NaBH4 | 0.14 g | [BH4-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | 6-[4-[2-(2-Methoxycarbonylethyl)phenyl]benzyl]-8-(3,5-dichlorophenyl)-1,8-diazabicyclo[4.3.0]nonane-7,9-dione | 0.125 g | COC(=O)CCC1=C(C=CC=C1)C1=CC=C(CC23CCCCN3C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O)C=C1 | C30H28Cl2N2O4
